US06677351B2
To 3,5-dibromopyridine (2.96 g, 12.5 mmol) in diethyl ether (70 ml) at −78° C. was added n-butyllithium 1.6M in hexanes (8.6 ml, 13.7 mmol) and the resulting mixture was stirred in the cold for 3 hours. Dimethyl disulfide (1.12 ml, 12.5 mmol) was added and the mixture was warmed to room temperature, then partitioned between ether and water. To the crude product from evaporation of the organic phase was added tetrahydrofuran (80 ml), methanol (20 ml), oxone (17 g) and enough saturated aqueous sodium bicarbonate to afford a slightly basic medium. After stirring for 4 hours at room temperature, an excess of 1M aqueous sodium metabisulfite was added, the organic solvents were evaporated, and the residue was partitioned between ethyl acetate and water. The crude product from the organic phase was stirred in a small volume of ethyl acetate and filtered to afford the 3-Bromo-5-methylsulfonylpyridine compound as a solid.

reactant | 3,5-dibromopyridine | 12.5 mmol, 2.96 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | Dimethyl disulfide | 12.5 mmol, 1.12 ml | CSSC | C2H6S2
reactant | sodium metabisulfite | 1M | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
product | 3-Bromo-5-methylsulfonylpyridine | BrC=1C=NC=C(C1)S(=O)(=O)C | C6H6BrNO2S
